US05840816
1.0 g (40 mmol) of magnesium metal was placed in a 300 mL four-neck flask was filled with and the flask under nitrogen atmosphere. 100 mL of ether was added, and stirring was initiated. Then 30 mL of an ether solution of 8.6 g (27 mol) of 4bromotriphenylamine was slowly added by dropwise to the mixture. Adding 3 mL, refluxing was slowly started. In the course of refluxing, the addition of the diethylether solution was continued. Upon completion of the addition, refluxing was carried out for another 20 hour. The Grignard reagent solution was cooled to room temperature and was then combined with 40 mL of an ether solution of 2.1 g (27 mmol) of allyl chloride added slowly. Upon completion of the addition, the mixture was refluxed for 2 hours to complete the reaction. 50 mL of Ice-cold water was then added, and hydrolysis was carried out. The ether layer was extracted, washed once with an aqueous solution of saturated sodium bicarbonate and twice with water. The ether solution was then dried over anhydrous sodium sulfate. The ether was removed, and a white solid over 4-(N,N-diphenylamino)allylbenzene was obtained in an amount of 4.9 g (63.2%).

reactant | magnesium | 40 mmol, 1.0 g | [Mg] | Mg
reactant | 4bromotriphenylamine | 27 mol, 8.6 g | C1=CC=C(C=C1)N(C2=CC=CC=C2)C3=CC=C(C=C3)Br | C18H14BrN
reactant | allyl chloride | 27 mmol, 2.1 g | C(C=C)Cl | C3H5Cl
solvent | ether | 40 mL | CCOCC | C4H10O
solvent | diethylether | C(C)OCC | C4H10O
solvent | ether | 30 mL | CCOCC | C4H10O
solvent | ether | 100 mL | CCOCC | C4H10O
product | 4-(N,N-diphenylamino)allylbenzene | C1(=CC=CC=C1)N(C1=CC=CC=C1)C=CCC1=CC=CC=C1 | C21H19N
